US08236835B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)piperidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variation as required to use N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide in place of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide to react with 1-(bromomethyl)-4-(trifluoromethyl)benzene, the title compound was obtained as a white solid in 47% yield: mp 217-218° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.53 (d, J=8.1 Hz, 2H), 7.38-7.21 (m, 7H), 6.02 (t, J=5.6 Hz, 1H), 4.57 (d, J=5.6 Hz, 2H), 4.35-4.24 (m, 1H), 3.98-3.89 (m, 1H), 3.49-3.41 (m, 1H), 2.93-2.74 (m, 2H), 2.63 (s, 3H), 2.12-1.68 (m, 3H), 1.62-1.42 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 171.6, 162.6, 156.9, 152.1, 143.2, 137.9, 129.6, 128.8, 127.9, 127.7, 125.9, 125.5, 125.4, 119.9, 47.9, 44.1, 43.9, 37.3, 24.9, 21.3, 17.4; MS (ES+) m/z 488.1 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
reactant | 1-(bromomethyl)-4-(trifluoromethyl)benzene | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
product | N-benzyl-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)piperidin-1-yl)thiazole-5-carboxamide | 47% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C25H24F3N3O2S
